US05756501
N,N-Diethyl-N'-[6,7,8,9-tetrahydro-4-(methyl)-pyridazino[4,5-b]indolizin-1-yl]-1.3-propanediamine
4-(Methyl)-N,N-diethyl-N'-[pyridazino[4,5-b]indolizin-1-yl]-1,3-propanediamine (2.75 g, 8.83 mmoL) was hydrogenated in a Parr appartus with 10% Pd on charcoal (0.54 g) in a 1:1 mixture of acetic acid and methanol at 55 psi and room temperature. Filtration through Solka Floc to remove the catalyst and evaporation of the filtrate gave a crude product which was passed through a pad of alumina eluting with 5% methanol in methylene chloride to give the free base of the title product in quantitative yield. The free base was converted to the monofumarate salt: m.p.171°-172° C.

reactant | 4-(Methyl)-N,N-diethyl-N'-[pyridazino[4,5-b]indolizin-1-yl]-1,3-propanediamine | 2.75 g | CC1=NN=C(C=2C=C3C=CC=CN3C21)NCCCN(CC)CC | C18H25N5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd on charcoal | 0.54 g | [Pd] | Pd
product | N,N-Diethyl-N'-[6,7,8,9-tetrahydro-4-(methyl)-pyridazino[4,5-b]indolizin-1-yl]-1.3-propanediamine | quantitative yield | C(C)N(CCCNC1=NN=C(C2=C1C=C1CCCCN21)C)CC | C18H29N5
